US08012976B2
Methyl 3-isopropyl-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
4-(benzylideneamino)isobenzofuran-1(3H)-one (237 mg, 1 mmol), isobutyraldehyde (216 mg, 3 mmol), sodium methanolate (162 mg, 3 mmol) and ethyl propionate (20 mL) were added and the mixture was stirred at room temperature overnight. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=20:1 to 5:1). 35 mg of solid methyl-3-isopropyl-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate was obtained. (yield: 11%). LC-MS (ESI) m/z: 308(M+1)+.

reactant | 4-(benzylideneamino)isobenzofuran-1(3H)-one | 1 mmol, 237 mg | C(C1=CC=CC=C1)=NC1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | isobutyraldehyde | 3 mmol, 216 mg | C(C(C)C)=O | C4H8O
reactant | sodium methanolate | 3 mmol, 162 mg | C[O-].[Na+]
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | Methyl 3-isopropyl-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 35 mg, yield: 11% | C(C)(C)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C20H21NO3
